US04022833
Condensation of 1-undecene oxide and 1-methyl-1,2-ethanediamine affords N,N'-(1,2-propylene)-bis[2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R'= H, X= CH(CH3)CH2, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | 1-methyl-1,2-ethanediamine | CC(CN)N | C3H10N2
product | N,N'-(1,2-propylene)-bis[2-hydroxyundecylamine] | C(C(C)NCC(CCCCCCCCC)O)NCC(CCCCCCCCC)O | C25H54N2O2
